US04552891
C. Preparation of 5-ethoxy-6-propyloxybenzothiophene-2-carboxylic acid
A solution of 0.45 g. of methyl 5-ethoxy-6-propyloxybenzothiophene-2-carboxylate and 0.34 g. of potassium hydroxide in ethanol was heated to reflux for two hours. The solution was poured into water, acidified with hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was extracted with 1N sodium hydroxide. The alkaline solution was acidified with hydrochloric acid and was then extracted with ethyl acetate. The organic extract was dried over sodium sulfate and evaporated in vacuo to provide the desired title product, m.p. 192°-194° C., in an overall molar yield of 36% from 5-ethoxy-6-hydroxybenzothiophene-2-carboxylic acid.

reactant | methyl 5-ethoxy-6-propyloxybenzothiophene-2-carboxylate | C(C)OC=1C(=CC2=C(C=C(S2)C(=O)OC)C1)OCCC | C15H18O4S
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-ethoxy-6-propyloxybenzothiophene-2-carboxylic acid | yield of 36% | C(C)OC=1C(=CC2=C(C=C(S2)C(=O)O)C1)OCCC | C14H16O4S
